datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C([H])[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C([H])[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O]CC 10=20;20,21=21"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)CCCCCC)C>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)CCCCCC)C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:10]C(CCC)/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O:10]C(CCC)C(C)=C1C 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)C>>CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)C.[O-:21]CCCCCC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[Na][O+:21]([C:20]([O-:10])(O[H])OCCCCCC)CC>>[Na][O:21]CC.[C:20](=[O:10])(O[H])OCCCCCC 10=20;20,21=21"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([NH]CC)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([NH]CC)[O]C 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C)CC>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C)[O-:10])CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)[H])[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)[H])CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[O-:10]C([H])C([H])C([C:20](OCC)=[O:21])O>>[O-:21][C:20]1(OCC)[O:10]C([H])C([H])C1O 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])[H])CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)CC 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]C>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)[H])CCCCCC 21=20;20,10=10"
"[O-:10]C([H])C([H])C([H])C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C([H])C([H])C([H])[O:10]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O]C.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
